US08247401B2
Step A: Methyl 3-ethynyl-5-(5-methylpyridin-2-yl)benzoate
To a degassed solution of methyl 3-bromo-5-(5-methylpyridin-2-yl)benzoate (200 mg, 0.653 mmol) in dioxane (3 mL) was added tributyl(ethynyl)tin (247 mg, 0.784 mmol), cesium fluoride (198 mg, 1.31 mmol) and bis(tri-t-butylphosphine) palladium (16.7 mg, 0.033 mmol) and the mixture heated to 70° C. After 2 h, the reaction was cooled to ambient temperature and dichloromethane (50 mL was added). The organic layer was washed with 30 mL of saturated aqueous sodium bicarbonate (2×), dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (100% dichloromethane→95% dichloromethane/methanol) to give the title compound (145 mg). MS 252.1 (M+1).

reactant | methyl 3-bromo-5-(5-methylpyridin-2-yl)benzoate | 0.653 mmol, 200 mg | BrC=1C=C(C(=O)OC)C=C(C1)C1=NC=C(C=C1)C | C14H12BrNO2
reactant | tributyl(ethynyl)tin | 0.784 mmol, 247 mg | C(CCC)[Sn](C#C)(CCCC)CCCC
reactant | cesium fluoride | 1.31 mmol, 198 mg | [F-].[Cs+]
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-t-butylphosphine) palladium | 0.033 mmol, 16.7 mg | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | Methyl 3-ethynyl-5-(5-methylpyridin-2-yl)benzoate | 145 mg | C(#C)C=1C=C(C(=O)OC)C=C(C1)C1=NC=C(C=C1)C | C16H13NO2
